* INA138 Current Shunt Monitor Macromodel Subcircuit
* connections:  Vin+
*               | Vin-
*               | | Vs
*               | | |   gnd
*               | | |   |   output
*               | | |   |   |
.subckt INA138  + - Vs GND OUT
*
*
C01      1N1030 1N1653  CAP 5PF
D1       + VESD  EDD
D2       GND +  EDD
D3       - VESD  EDD
D4       GND -  EDD
D5       Vs VESD  EDD
D6       GND Vs  EDD
D7       OUT VESD  EDD
D8       GND OUT  EDD
I1       1N1819 GND  2UA  ;NOT4ECAD
I2       1N940 GND  2UA  ;NOT4ECAD
I3       1N1033 GND  2UA  ;NOT4ECAD
I4       1N1833 GND  8UA  ;NOT4ECAD
Q01      1N1107 1N1819 INP   PNP
Q22      VO  1N1833 Vs   PNP
Q23      1N1833 1N1833 Vs   PNP
Q02      1N1030 1N1819 INN   PNP
Q03      1N1819 1N1819 INP   PNP
Q04      1N1819 1N1819 INN   PNP
Q07      1N1107 1N940 GND   NPN
Q08      1N1030 1N940 GND   NPN
Q09      Vs 1N1107 1N940   NPN
Q10      Vs 1N1030 1N1033   NPN
Q11      VO  1N1033 GND   NPN
Q20      INP VO  1N1673   NPN
Q21      1N1673 1N1673 VO    NPN
R11      1N1653 VO   FILM 3K
R20      1N1673 OUT  FILM 5K
RG1      + INP  FILM 5K
RG2      - INN  FILM 5K
*
.MODEL NPN NPN
+IS=1FA      BF=250      VAF=1000
+CJE=.5PF    CJC=.2PF    TF=300PS  
*
.MODEL PNP LPNP
+IS=1.25FA     BF=250     VAF=1000
+CJE=.13PF     CJC=.6PF   TF=50NS
*
.model EDD D(Is=3.0E-14 BV=90 Rs=10)
.MODEL FILM RES (R=1 TC1=.000050)
.MODEL CAP CAP (C=1 TC1=0)
.ENDS INA138
*
* 
